US05786494
Stage 1: Diethyl piperonylidenemalonate
Into a one-liter three-necked conical flask are introduced 50 g (333.04 mmol) of piperonal, 53.34 g (333.04 mmol) of diethyl malonate, 2.26 g (26.59 mmol) of piperidine, 110 ml of toluene and 1.6 g (26.66 mmol) of acetic acid.

reactant | piperonal | 333.04 mmol, 50 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | diethyl malonate | 333.04 mmol, 53.34 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 26.59 mmol, 2.26 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 26.66 mmol, 1.6 g | C(C)(=O)O | C2H4O2
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | Diethyl piperonylidenemalonate | C(C1=CC=2OCOC2C=C1)=C(C(=O)OCC)C(=O)OCC | C15H16O6
